US07696248B2
Racemic 3-{4-[1-(4′-Cyano-biphenyl-4-ylamino)-hexyl]-benzoylamino}-propionic acid
The title compound is prepared by the general method exemplified in Example 1 using 3-(4-hexanoyl-benzoylamino)-propionic acid methyl ester (Preparation 5) and 4′-amino-biphenyl-4-carbonitrile as starting materials. MS (ES): 470.2 [M+H]+.

reactant | 3-(4-hexanoyl-benzoylamino)-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCC)=O)=O)=O | C17H23NO4
reactant | 4′-amino-biphenyl-4-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H10N2
product | Racemic 3-{4-[1-(4′-Cyano-biphenyl-4-ylamino)-hexyl]-benzoylamino}-propionic acid | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(CCCCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C29H31N3O3
